US03979361
0.1 mole of 2-trifluoromethyl-4-tert-butylphenol and 0.1 mole of hexamethylenetretramine is dissolved in trifluoroacetic acid (150 ml.) and the mixture refluxed for 8 hours. After this time, 150 ml. of water and 50 ml. of concentrated hydrochloric acid is added. This mixture is then refluxed for 1/2 hour. The reaction mixture is cooled and extracted with ether (5 × 50 ml.) and the ether extract is dried over magnesium sulfate. The ether is evaporated and the residue is crystallized from ethanol to yield 3-trifluoromethyl-5-t-butyl salicylaldehyde.

reactant | 2-trifluoromethyl-4-tert-butylphenol | 0.1 mole | FC(C1=C(C=CC(=C1)C(C)(C)C)O)(F)F | C11H13F3O
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-trifluoromethyl-5-t-butyl salicylaldehyde | FC(C1=C(C(C=O)=CC(=C1)C(C)(C)C)O)(F)F | C12H13F3O2
